US06274623B1
To a solution of 18.2 g (50 mmol) of bis(tropan-3-yl) succinate in 500 mL of dry acetone in a sealed bottle is added 11.6 g (50 mmol) of 2,5-dimethoxybenzyl bromide. After the mixture is heated at 50° C. for 24 hours, 14.3 g (50 mmol) of 3,4-diacetoxybenzyl bromide is added to the cooled mixture. Then the mixture is heated again at 70-75° C. for another 10 hours. The resulting white precipitate is collected by filtration, and purified by recrystallization (2×) from MeOH-methylene chloride to yield 9.0 g (20%) of [N-(2,5-dimethoxybenzyl)tropanium-3-yl], [N-(3,4-diacetoxybenzyl)tropanium-3-yl] succinate dibromide as a white powder.

reactant | bis(tropan-3-yl) succinate | 50 mmol, 18.2 g | C(CCC(=O)OC1C[C@H]2CC[C@@H](C1)N2C)(=O)OC2C[C@H]1CC[C@@H](C2)N1C | C20H32N2O4
reactant | 2,5-dimethoxybenzyl bromide | 50 mmol, 11.6 g | COC1=C(CBr)C=C(C=C1)OC | C9H11BrO2
reactant | 3,4-diacetoxybenzyl bromide | 50 mmol, 14.3 g | C(C)(=O)OC=1C=C(CBr)C=CC1OC(C)=O | C11H11BrO4
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | [N-(3,4-diacetoxybenzyl)tropanium-3-yl] succinate dibromide | [Br-].[Br-].C(CCC(=O)[O-])(=O)OC1C[C@H]2CC[C@@H](C1)[N+]2(C)CC2=CC(=C(C=C2)OC(C)=O)OC(C)=O | InChI=1S/C23H29NO8.2BrH/c1-14(25)30-20-7-4-16(10-21(20)31-15(2)26)13-24(3)17-5-6-18(24)12-19(11-17)32-23(29)9-8-22(27)28;;/h4,7,10,17-19H,5-6,8-9,11-13H2,1-3H3;2*1H/p-2/t17-,18+,19?,24?;;
